US07268232B2
(2-Ethoxyethoxy)acetic acid (165RL54)
2-Ethoxyethanol (0.88 mL, 11 mmol) and sodium hydride (60% in oil, 1.08 g, 27 mmol) were stirred in DMF (20 mL) for 5 min. Iodoacetic acid (2.02 g, 10.9 mmol) was dissolved in DMF (20 mL) and added dropwise to the suspension. The thick orange suspension was stirred at rt for 3 hours. The reaction was quenched by slowly adding water (10 mL), followed by hydrochloric acid (4 M, 5 mL). The reaction mixture was extracted with dichloromethane (3×50 mL) and the combined organic layers dried over sodium sulfate, filtered and evaporated yielding a clear oil. The residue was purified by distillation under reduced pressure to give the product (1.1 g, 68%) as an oil.

reactant | 2-Ethoxyethanol | 11 mmol, 0.88 mL | C(C)OCCO | C4H10O2
reactant | sodium hydride | 27 mmol, 1.08 g | [H-].[Na+]
reactant | Iodoacetic acid | 10.9 mmol, 2.02 g | ICC(=O)O | C2H3IO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2-Ethoxyethoxy)acetic acid | 1.1 g, 68% | C(C)OCCOCC(=O)O | C6H12O4
